US05814653
7-benzyloxy-4-(methyl)amino-10H-cyclohepta[7,6-b]indole
A solution of 1.37 gm (3.37 mMol) 7-benzyloxy-4-(t-butyloxycarbonyl)amino-10H-cyclohepta[7,6-b]indole in 15 mL tetrahydrofuran was added dropwise over 30 minutes to a suspension of 0.47 gm (12.4 mMol) lithium aluminum hydride in 30 mL tetrahydrofuran at 0° C. After the addition was complete, the reaction mixture was stirred for 30 minutes at room temperature and then for 4 hours at reflux. The reaction mixture was cooled to room temperature and then to it was added sodium sulfate decahydrate until no more gas evolution was observed. The resulting suspension was filtered and the filter cake washed with dichloromethane. The combined filtrates were concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with 10% methanol in dichloromethane containing 0.5% ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure to give 0.97 gm (90%) of the desired compound.

reactant | 7-benzyloxy-4-(t-butyloxycarbonyl)amino-10H-cyclohepta[7,6-b]indole | 3.37 mMol, 1.37 gm | C(C1=CC=CC=C1)OC1=CC=2NC3=C(C=CC=C3C2CC=C1)NC(=O)OC(C)(C)C | C25H26N2O3
reactant | lithium aluminum hydride | 12.4 mMol, 0.47 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 7-benzyloxy-4-(methyl)amino-10H-cyclohepta[7,6-b]indole | 0.97 gm, 90% | C(C1=CC=CC=C1)OC1=CC=2NC3=C(C=CC=C3C2CC=C1)NC | C21H20N2O
